US07943551B2
Step 4: Synthesis of methyl 4-chloro-3-mercapto-2-methylbenzoate
Under an atmosphere of nitrogen, 3.60 g (17.8 mmol) of 4-chloro-3-mercapto-2-methylbenzoic acid in 50 ml of absolute methanol and 1 ml of concentrated sulfuric acid were heated under reflux for 17 h. The mixture was freed from solvent, and the residue was taken up in water. After two extractions with ethyl acetate, the combined organic phases were dried, filtered under an atmosphere of nitrogen and freed from the solvent. What was isolated were 3.2 g of pure product.

reactant | 4-chloro-3-mercapto-2-methylbenzoic acid | 17.8 mmol, 3.60 g | ClC1=C(C(=C(C(=O)O)C=C1)C)S | C8H7ClO2S
reactant | methanol | 50 ml | CO | CH4O
solvent | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | methyl 4-chloro-3-mercapto-2-methylbenzoate | ClC1=C(C(=C(C(=O)OC)C=C1)C)S | C9H9ClO2S
